### PR TITLE
feat(ErdosProblems): 978

### LINKED ISSUE #1050: Erdős Problem 978
### What is the conjecture

https://www.erdosproblems.com/978

  Let $f\in \mathbb{Z}[x]$ be an irreducible polynomial of degree $k>2$ (and suppose that $k\neq 2^l$ for any $l\geq 1$).

Does the set of integers $n$ for which $f(n)$ is $(k-1)$-power-free have positive density?

Are there infinitely many $n$ for which $f(n)$ is $(k-2)$-power-free?

In particular, does
$$n^4+2$$
represent infinitely many squarefree numbers?

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by CoolRmal**
Closes #1050

The condition `¬ ∃ p : ℕ, p.Prime ∧ ∀ n : ℕ, p ^ (f.natDegree - 1) ∣ f.eval (n : ℤ)` is used in [Ho67] and [Br11]. I formulate this condition in this way because of my comments on: https://www.erdosproblems.com/forum/thread/978.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/978.lean [hunk 1]
```diff
@@ -0,0 +1,79 @@
...
+ - [erdosproblems.com/978](https://www.erdosproblems.com/978)
+ - [Ho67] Hooley, C., On the power free values of polynomials. Mathematika (1967), 21--26.
+ - [Br11] Browning, T. D., Power-free values of polynomials. Arch. Math. (Basel) (2011), 139--150.
+ - [Er53] Erdős, P., Arithmetical properties of polynomials. J. London Math. Soc. (1953), 416--425.
+-/
+
+open Polynomial Set Real
+
+def Powerfree {R : Type*} [Monoid R] (r : R) (k : ℕ) : Prop :=
+  ∀ x : R, x ^ k ∣ r → IsUnit x
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/978.lean]: I think this should go in the `ForMathlib` subdirectory!

File: FormalConjectures/ErdosProblems/978.lean [hunk 2]
```diff
@@ -0,0 +1,79 @@
...
+theorem erdos_978.sub_two {f : ℤ[X]} (hi : Irreducible f) (hd : f.natDegree ≥ 9)
+    (hp : ¬ ∃ p : ℕ, p.Prime ∧ ∀ n : ℕ, p ^ (f.natDegree - 2) ∣ (f.eval (n : ℤ)).toNat)
+    (hc : f.leadingCoeff > 0) :
+    {n : ℕ | Powerfree (f.eval (n : ℤ)).toNat (f.natDegree - 2)}.Infinite := by
+  sorry
+
+/-- Is it true that the set of `n` such that `f n` is `(k - 2)`-th power free has
+infinitely many elements? This result is proved in [Br11]. -/
+@[category research solved, AMS 11]
+theorem erdos_978.sub_two' : answer(sorry) ↔ ∀ {f : ℤ[X]}, Irreducible f →
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/978.lean]:
```suggestion
theorem erdos_978.sub_two' : answer(True) ↔ ∀ {f : ℤ[X]}, Irreducible f →
```

File: FormalConjectures/ErdosProblems/978.lean (hunk 1 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/978.lean]: I just created a new file named `Powerfree`. It includes some basic lemmas about this definition.

File: FormalConjectures/ErdosProblems/978.lean [hunk 3]
```diff
@@ -0,0 +1,77 @@
...
+namespace Erdos978
+
+/-- Let `f ∈ ℤ[X]` be an irreducible polynomial. Suppose that the degree `k` of `f` is larger than
+`2` and is not equal to a power of `2`. Also suppose that the leading coefficient of `f` is
+positive. Then the set of `n` such that `f n` is `(k - 1)`-th power free is infinite, and this is
+proved in [Er53]. -/
+@[category research solved, AMS 11]
+theorem erdos_978.sub_one {f : ℤ[X]} (hi : Irreducible f) (hd : f.natDegree > 2)
+    (hp : ¬ ∃ l : ℕ, f.natDegree = 2 ^ l) (hc : f.leadingCoeff > 0) :
+    {n : ℕ | Powerfree (f.eval (n : ℤ)).toNat (f.natDegree - 1)}.Infinite := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/978.lean]: Why do you need to convert to naturals here?

File: FormalConjectures/ErdosProblems/978.lean [hunk 4]
```diff
@@ -0,0 +1,77 @@
...
+leading coefficient of `f` is positive. Then the set of `n` such that `f n` is `(k - 1)`-th power
+free has positive density, and this is proved in [Ho67]. -/
+@[category research solved, AMS 11]
+theorem erdos_978.sub_one_density {f : ℤ[X]} (hi : Irreducible f) (hd : f.natDegree > 2)
+    (hp : ¬ ∃ p : ℕ, p.Prime ∧ ∀ n : ℕ, p ^ (f.natDegree - 1) ∣ (f.eval (n : ℤ)).toNat)
+    (hc : f.leadingCoeff > 0) :
+    HasPosDensity {n : ℕ | Powerfree (f.eval (n : ℤ)).toNat (f.natDegree - 1)} := by
+  sorry
+
+/-- If the degree `k` of `f` is larger than or equal `9`, then the set of `n` such that `f n` is
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/978.lean]:
```suggestion
/-- If the degree `k` of `f` is larger than or equal to `9`, then the set of `n` such that `f n` is
```

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean [hunk 5]
```diff
@@ -0,0 +1,50 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import Mathlib.Algebra.Squarefree.Basic
+
+variable {R : Type*}
+
+def Powerfree [Monoid R] (r : R) (k : ℕ) : Prop :=
+  ∀ x : R, x ^ k ∣ r → IsUnit x
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean]:
```suggestion
  ∀ \{{x : R\}}, x ^ k ∣ r → IsUnit x
```

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean [hunk 6]
```diff
@@ -0,0 +1,50 @@
...
+
+theorem powerfree_iff_squarefree [Monoid R] (r : R) : Powerfree r 2 ↔ Squarefree r where
+  mp h x hx := h x (sq x ▸ hx)
+  mpr h x hx := h x ((sq x).symm ▸ hx)
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean]: The smart triangle is smart
```suggestion
  mpr h x hx := h x (sq x ▸ hx)
```

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean [hunk 7]
```diff
@@ -0,0 +1,50 @@
...
+-/
+
+import Mathlib.Algebra.Squarefree.Basic
+
+variable {R : Type*}
+
+def Powerfree [Monoid R] (r : R) (k : ℕ) : Prop :=
+  ∀ x : R, x ^ k ∣ r → IsUnit x
+
+theorem powerfree_iff_squarefree [Monoid R] (r : R) : Powerfree r 2 ↔ Squarefree r where
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean]:
```suggestion
@[simp] theorem powerfree_two [Monoid R] {r : R} : Powerfree r 2 ↔ Squarefree r where
```

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean [hunk 8]
```diff
@@ -0,0 +1,50 @@
...
+  mp h x hx := h x (sq x ▸ hx)
+  mpr h x hx := h x ((sq x).symm ▸ hx)
+
+theorem IsUnit.powerfree [CommMonoid R] {r : R} (h : IsUnit r) {k : ℕ} (hk : k ≠ 0) :
+    Powerfree r k := fun _ hx => (isUnit_pow_iff hk).1 (isUnit_of_dvd_unit hx h)
+
+theorem powerfree_one [CommMonoid R] {k : ℕ} (hk : k ≠ 0) : Powerfree (1 : R) k :=
+  isUnit_one.powerfree hk
+
+theorem not_powerfree_zero [MonoidWithZero R] [Nontrivial R] (k : ℕ) : ¬ Powerfree (0 : R) k := by
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean]: Make this simp?

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean [hunk 9]
```diff
@@ -0,0 +1,50 @@
...
+  ∀ x : R, x ^ k ∣ r → IsUnit x
+
+theorem powerfree_iff_squarefree [Monoid R] (r : R) : Powerfree r 2 ↔ Squarefree r where
+  mp h x hx := h x (sq x ▸ hx)
+  mpr h x hx := h x ((sq x).symm ▸ hx)
+
+theorem IsUnit.powerfree [CommMonoid R] {r : R} (h : IsUnit r) {k : ℕ} (hk : k ≠ 0) :
+    Powerfree r k := fun _ hx => (isUnit_pow_iff hk).1 (isUnit_of_dvd_unit hx h)
+
+theorem powerfree_one [CommMonoid R] {k : ℕ} (hk : k ≠ 0) : Powerfree (1 : R) k :=
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean]: simp?

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean [hunk 10]
```diff
@@ -0,0 +1,50 @@
...
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import Mathlib.Algebra.Squarefree.Basic
+
+variable {R : Type*}
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean]: Can you use `M` for monoids, `M\0` for monoids with zero, and split into sections according to typeclass assumptions?

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean:1]: Can you prove that powerfreeness is monotone in `k` and antitone in divisibility?

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean [hunk 11]
```diff
@@ -0,0 +1,50 @@
...
+    Powerfree r k := fun _ hx => (isUnit_pow_iff hk).1 (isUnit_of_dvd_unit hx h)
+
+theorem powerfree_one [CommMonoid R] {k : ℕ} (hk : k ≠ 0) : Powerfree (1 : R) k :=
+  isUnit_one.powerfree hk
+
+theorem not_powerfree_zero [MonoidWithZero R] [Nontrivial R] (k : ℕ) : ¬ Powerfree (0 : R) k := by
+  rw [Powerfree, not_forall]
+  exact ⟨0, by simp⟩
+
+theorem Irreducible.powerfree [CommMonoid R] {r : R} (h : Irreducible r) {k : ℕ} (hk : k ≥ 2) :
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean]: Can you use `<=`? Same below

File: FormalConjectures/ErdosProblems/978.lean (hunk 3 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/978.lean]: I wanted to consider powerfreeness over ℕ instead of ℤ. After second thoughts I think they are equivalent here.

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean
Comment (CoolRmal) [reply FormalConjecturesForMathlib/Algebra/Powerfree.lean:1]: Just updated with these two theorems.

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean [hunk 12]
```diff
@@ -0,0 +1,68 @@
...
+theorem powerfree_antitone [Monoid M] {r m : M} {k : ℕ} (hrm : r ∣ m) (hm : Powerfree m k) :
+    Powerfree r k := fun _ hx => hm (hx.trans hrm)
+
+@[simp]
+theorem powerfree_two [Monoid M] {m : M} : Powerfree m 2 ↔ Squarefree m where
+  mp h x hx := h (sq x ▸ hx)
+  mpr h x hx := h x (sq x ▸ hx)
+
+theorem IsUnit.powerfree [CommMonoid M] {m : M} (h : IsUnit m) {k : ℕ} (hk : k ≠ 0) :
+    Powerfree m k := fun _ hx => (isUnit_pow_iff hk).1 (isUnit_of_dvd_unit hx h)
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean]:
```suggestion
  mpr h x hx := h x (sq x ▸ hx)
  
end Monoid
  
section CommMonoid
variable [CommMonoid M] {m : M} {k : ℕ}

theorem IsUnit.powerfree (h : IsUnit m) (hk : k ≠ 0) : Powerfree m k :=
  fun _ hx => (isUnit_pow_iff hk).1 (isUnit_of_dvd_unit hx h)
```
and similarly above and below

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean [hunk 13]
```diff
@@ -0,0 +1,68 @@
...
+@[simp]
+theorem not_powerfree_zero [MonoidWithZero M₀] [Nontrivial M₀] (k : ℕ) :
+    ¬ Powerfree (0 : M₀) k := by
+  rw [Powerfree, not_forall]
+  exact ⟨0, by simp⟩
+
+theorem Prime.powerfree [CancelCommMonoidWithZero M₀] {x : M₀} (h : Prime x) {k : ℕ} (hk : 2 ≤ k) :
+    Powerfree x k := h.irreducible.powerfree hk
+
+end MonoidWithZero
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean]: No need to make a section here yet since there is only one lemma for each typeclass

File: FormalConjectures/ErdosProblems/978.lean [hunk 14]
```diff
@@ -0,0 +1,77 @@
...
+namespace Erdos978
+
+/-- Let `f ∈ ℤ[X]` be an irreducible polynomial. Suppose that the degree `k` of `f` is larger than
+`2` and is not equal to a power of `2`. Also suppose that the leading coefficient of `f` is
+positive. Then the set of `n` such that `f n` is `(k - 1)`-th power free is infinite, and this is
+proved in [Er53]. -/
+@[category research solved, AMS 11]
+theorem erdos_978.sub_one {f : ℤ[X]} (hi : Irreducible f) (hd : f.natDegree > 2)
+    (hp : ¬ ∃ l : ℕ, f.natDegree = 2 ^ l) (hc : f.leadingCoeff > 0) :
+    {n : ℕ | Powerfree (f.eval (n : ℤ)) (f.natDegree - 1)}.Infinite := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/978.lean]: Why is the leading coefficient being positive relevant? `Powerfree k (-x) \iff Powerfree k x`. More generally, `Powerfree k x \iff Powerfree k y` if `Associated x y`, which is a corollary of monotonicity in divisibility you could add

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean [hunk 15]
```diff
@@ -0,0 +1,68 @@
...
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import Mathlib.Algebra.Squarefree.Basic
+
+variable {M M₀ : Type*}
+
+def Powerfree [Monoid M] (m : M) (k : ℕ) : Prop :=
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean]: I find this more intuitive. I see `Powerfree k` as a predicate on elements of a monoid, rather than `Powerfree m` as a predicate on natural numbers
```suggestion
def Powerfree [Monoid M] (k : ℕ) (m : M) : Prop :=
```

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean [hunk 16]
```diff
@@ -0,0 +1,68 @@
...
+  ∀ ⦃x : M⦄, x ^ k ∣ m → IsUnit x
+
+section Monoid
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean]:
```suggestion
section Monoid
variable [Monoid M]

def Powerfree (m : M) (k : ℕ) : Prop :=
  ∀ ⦃x : M⦄, x ^ k ∣ m → IsUnit x
```

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean [hunk 17]
```diff
@@ -0,0 +1,73 @@
...
+def Powerfree (k : ℕ) (m : M) : Prop :=
+  ∀ ⦃x : M⦄, x ^ k ∣ m → IsUnit x
+
+theorem powerfree_monotone {a b : ℕ} (hab : a ≤ b) (hm : Powerfree a m) :
+  Powerfree b m := fun x hx => hm (dvd_of_mul_right_dvd (pow_mul_pow_sub x hab ▸ hx))
+
+theorem powerfree_antitone (hrm : r ∣ m) (hm : Powerfree k m) :
+    Powerfree k r := fun _ hx => hm (hx.trans hrm)
+
+theorem powerfree_associated (hrm : Associated r m) : Powerfree k r ↔ Powerfree k m :=
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean]:
```suggestion
theorem powerfree_congr (hrm : Associated r m) : Powerfree k r ↔ Powerfree k m :=
```

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean [hunk 18]
```diff
@@ -0,0 +1,73 @@
...
+
+variable {M M₀ : Type*} {r m : M} {k : ℕ}
+
+section Monoid
+variable [Monoid M]
+
+def Powerfree (k : ℕ) (m : M) : Prop :=
+  ∀ ⦃x : M⦄, x ^ k ∣ m → IsUnit x
+
+theorem powerfree_monotone {a b : ℕ} (hab : a ≤ b) (hm : Powerfree a m) :
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean]:
```suggestion
theorem Powerfree.of_le {a b : ℕ} (hab : a ≤ b) (hm : Powerfree a m) :
```

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean [hunk 19]
```diff
@@ -0,0 +1,73 @@
...
+  Powerfree b m := fun x hx => hm (dvd_of_mul_right_dvd (pow_mul_pow_sub x hab ▸ hx))
+
+theorem powerfree_antitone (hrm : r ∣ m) (hm : Powerfree k m) :
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean]:
```suggestion
theorem Powerfree.of_dvd (hrm : r ∣ m) (hm : Powerfree k m) :
```

File: FormalConjectures/ErdosProblems/978.lean (hunk 14 above)
Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/978.lean]: Can you make `Powerfree k (-x) \iff Powerfree k x` a simp lemma?

Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/978.lean]: 🆗

File: FormalConjecturesForMathlib/Algebra/Powerfree.lean [hunk 20]
```diff
@@ -0,0 +1,77 @@
...
+  Powerfree b m := fun x hx => hm (dvd_of_mul_right_dvd (pow_mul_pow_sub x hab ▸ hx))
+
+theorem Powerfree.of_dvd (hrm : r ∣ m) (hm : Powerfree k m) :
+    Powerfree k r := fun _ hx => hm (hx.trans hrm)
+
+theorem powerfree_congr (hrm : Associated r m) : Powerfree k r ↔ Powerfree k m :=
+  ⟨fun h => h.of_dvd hrm.dvd', fun h => h.of_dvd hrm.dvd⟩
+
+@[simp]
+theorem powerfree_neg [HasDistribNeg M] : Powerfree k m ↔ Powerfree k (-m) :=
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/Algebra/Powerfree.lean]: Very bad! This will loop
```suggestion
@[simp]
theorem powerfree_neg [HasDistribNeg M] : Powerfree k (-m) ↔ Powerfree k m :=
```

File: FormalConjectures/ErdosProblems/978.lean [hunk 21]
```diff
@@ -0,0 +1,75 @@
...
+  sorry
+
+/-- Let `f ∈ ℤ[X]` be an irreducible polynomial. Suppose that the degree `k` of `f` is larger than
+`2`, and `f n` have no fixed `(k - 1)`-th power divisors other than `1`. Also suppose that the
+leading coefficient of `f` is positive. Then the set of `n` such that `f n` is `(k - 1)`-th power
+free has positive density, and this is proved in [Ho67]. -/
+@[category research solved, AMS 11]
+theorem erdos_978.sub_one_density {f : ℤ[X]} (hi : Irreducible f) (hd : f.natDegree > 2)
+    (hp : ¬ ∃ p : ℕ, p.Prime ∧ ∀ n : ℕ, (p : ℤ) ^ (f.natDegree - 1) ∣ (f.eval (n : ℤ)))
+    (hc : f.leadingCoeff > 0) :
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/978.lean]: You still have this positivity assumption

File: FormalConjectures/ErdosProblems/978.lean [hunk 22]
```diff
@@ -0,0 +1,75 @@
...
+    {n : ℕ | Powerfree (f.natDegree - 1) (f.eval (n : ℤ))}.Infinite := by
+  sorry
+
+/-- Let `f ∈ ℤ[X]` be an irreducible polynomial. Suppose that the degree `k` of `f` is larger than
+`2`, and `f n` have no fixed `(k - 1)`-th power divisors other than `1`. Also suppose that the
+leading coefficient of `f` is positive. Then the set of `n` such that `f n` is `(k - 1)`-th power
+free has positive density, and this is proved in [Ho67]. -/
+@[category research solved, AMS 11]
+theorem erdos_978.sub_one_density {f : ℤ[X]} (hi : Irreducible f) (hd : f.natDegree > 2)
+    (hp : ¬ ∃ p : ℕ, p.Prime ∧ ∀ n : ℕ, (p : ℤ) ^ (f.natDegree - 1) ∣ (f.eval (n : ℤ)))
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/978.lean]:
```suggestion
    (hp : ¬ ∃ p : ℕ, p.Prime ∧ ∀ n : ℕ, (p : ℤ) ^ (f.natDegree - 1) ∣ f.eval (n : ℤ))
```

File: FormalConjectures/ErdosProblems/978.lean [hunk 23]
```diff
@@ -0,0 +1,74 @@
...
+ - [Er53] Erdős, P., Arithmetical properties of polynomials. J. London Math. Soc. (1953), 416--425.
+-/
+
+open Polynomial Set
+
+namespace Erdos978
+
+/-- Let `f ∈ ℤ[X]` be an irreducible polynomial. Suppose that the degree `k` of `f` is larger than
+`2` and is not equal to a power of `2`. Also suppose that the leading coefficient of `f` is
+positive. Then the set of `n` such that `f n` is `(k - 1)`-th power free is infinite, and this is
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/978.lean]: You should update the docstring here and below. Sorry that I didn't make it clear previously

Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/978.lean]: No, my bad. I should be more careful.
